US07858623B2
Step 3: N-(6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide.
N-(6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide (0.320 g, 0.921 mmol) was dissolved in a mixture of 3:1 ethanol/water (8 ml). Then iron (0.276 g, 4.95 mmol) and ammonium chloride (0.0281 g, 0.525 mmol) was added to the mixture with stirring. The mixture was placed in a pre-heated oil bath (80° C.) for 1 hour. The oil bath was removed to allow the mixture to cool to ambient temperature. The mixture was filtered through a filter diskette. The flask was rinsed with methanol (3×10 ml) and filtered through diskette. Combined organic solution was concentrated in-vacuo. Then water was added to the mixture with stirring. The precipitate was collected by filtration and washed with hexanes. The solid was dried in a reduced-pressure oven to give the desired product N-(6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide (0.240 g, 0.756 mmol, 82% yield) as a yellow solid. MS (ESI pos. ion) m/z: 318 (MH+). Calc'd exact mass for C15H16FN5O2: 317. 1HNMR (300 MHz, CDCl3): 1.91-2.05 (s, 4H), 3.41-3.54 (t, 4H), 6.41-6.52 (m, 2H), 6.92-7.01 (t, 1H), 7.21 (s, 1H), 7.63 (s, 1H), 8.36 (s, 1H).

reactant | N-(6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide | 0.921 mmol, 0.320 g | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C15H14FN5O4
reactant | ammonium chloride | 0.525 mmol, 0.0281 g | [Cl-].[NH4+]
solvent | ethanol water | 8 ml | C(C)O.O
catalyst | iron | 4.95 mmol, 0.276 g | [Fe] | Fe
product | N-(6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl)pyrrolidine-1-carboxamide | 0.756 mmol, 0.240 g, 82% yield | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=C1)F | C15H16FN5O2
